US07312225B2
9c) Production of 3-Amino-N-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butyl]-benzamide
A solution of 568 mg (1.32 mmol) of N-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butyl]-3-nitro-benzamide in 15 ml of THF is mixed at room temperature with 9 ml of a 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid. After 21 hours, the batch is made basic with 2N NaOH solution, mixed with ethyl acetate and filtered on Celite. The filter cake is rewashed with ethyl acetate. The organic phase of the filtrate is filtered through a Whatman filter and concentrated by evaporation. 447 mg (1.12 mmol, corresponding to 85% of theory) of the product is obtained.

reactant | N-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butyl]-3-nitro-benzamide | 1.32 mmol, 568 mg | BrC=1C(=NC(=NC1)Cl)NCCCCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H15BrClN5O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 3-Amino-N-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butyl]-benzamide | NC=1C=C(C(=O)NCCCCNC2=NC(=NC=C2Br)Cl)C=CC1 | C15H17BrClN5O
